US08389508B2
To a solution of 2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}benzaldehyde (D72) (60 mg), 3-azetidinecarboxylic acid (28.9 mg) and acetic acid (0.1 mL) in dichloromethane (DCM) (3 mL) stirred under nitrogen at room temperature for 1 h was added sodium triacetoxyborohydride (60.6 mg) in one charge. The reaction was stirred at room temperature overnight. The mixture was partitioned with DCM and water, washed with saturated brine and the organic phase was dried and evaporated, the residue was purified by Mass Directed AutoPrep to afford 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-3-azetidinecarboxylic acid (E31) (14 mg). δH (DMSO-d6, 400 MHz): 1.06 (3H, t), 1.33 (6H, d), 2.73 (2H, m), 3.22 (5H, m), 3.63 (2H, s), 4.89 (1H, m), 7.26 (2H, m), 7.39 (1H, d), 7.45 (1H, d), 7.84 (1H, s), 8.15 (2H, m). δF (DMSO-d6, 376 MHz): −61.3. MS (ES): C26H27F3N2O3S requires 504. found 505.1 (M+H+).

reactant | 2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}benzaldehyde | 60 mg | C(C)C1=C(C=O)C=CC=C1C1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)C(F)(F)F | C22H20F3NO2S
reactant | 3-azetidinecarboxylic acid | 28.9 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 60.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[(2-ethyl-3-{2-[4-[(1-methylethyl)oxy]-3-(trifluoromethyl)phenyl]-1,3-thiazol-5-yl}phenyl)methyl]-3-azetidinecarboxylic acid | 14 mg | C(C)C1=C(C=CC=C1C1=CN=C(S1)C1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CN1CC(C1)C(=O)O | C26H27F3N2O3S
